US05098602
Synthesis of 3-fluoro-4-(2-methyloctanoyl) phenyl-3-fluoro-4-heptyloxy benzoic acid
Into a flask were charged 1.2 g (4.76 mmol) of (+)-3-fluoro 4-(2-methyloctanoyl) phenol, 1.51 g (5.94 mmol) of 3-fluoro-4-heptyloxy benzoic acid, 76.7 mg (0.63 mmol) of N,N-dimethylamino pyridine and 30 ml of dried methylene chloride, which were slightly heated with stirring to form a homogeneous solution. Then, the solution was added with 1.40 g (6.79 mmol) of dicyclohexyl carbodiimide and stirred over a night. The precipitated white crystal was filtered off, and the resulting filtrate was washed with 2 normal hydrochloric acid, an aqueous solution of 5% sodium hydrogen carbonate and water in this order and dried on magnesium sulfate. After magnesium sulfate was filtered off, the filtrate was concentrated and dried under a reduced pressure to obtain an oil. This oil was purified through a column chromatography and recrystallized with ethanol to obtain 1.02 g (2.69 mmol, yield: 44%) of a white crystal of the objective compound having the aforementioned physical and chemical properties.

reactant | (+)-3-fluoro 4-(2-methyloctanoyl) phenol | 4.76 mmol, 1.2 g | FC=1C=C(C=CC1C(C(CCCCCC)C)=O)O | C15H21FO2
reactant | 3-fluoro-4-heptyloxy benzoic acid | 5.94 mmol, 1.51 g | FC=1C=C(C(=O)O)C=CC1OCCCCCCC | C14H19FO3
reactant | dicyclohexyl carbodiimide | 6.79 mmol, 1.40 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-(2-methyloctanoyl) phenyl-3-fluoro-4-heptyloxy benzoic acid | 2.69 mmol, 1.02 g, yield: 44% | FC=1C=C(C=CC1C(C(CCCCCC)C)=O)C1=C(C(=O)O)C=CC(=C1F)OCCCCCCC | C29H38F2O4
